US07332485B2
1-(Benzyloxyimino-Methyl)-Cyclohexanecarboxylic Acid Methyl Ester
A mixture of 1-formyl-cyclohexanecarboxylic acid methyl ester (1.23 g, 7.23 mmol), sodium acetate (1.0 g, 14.5 mmol) and O-benzylhydroxylamine hydrochloride (2.3 g, 14.5 mmol) were stirred in methanol (40 mL) for 18 h. The methanol was removed in vacuo and the residue partitioned between water and EtOAc. The aqueous phase was extracted with EtOAc (50 mL×2). The combined organic extracts were dried (MgSO4) and were evaporated in vacuo to provide the title compound as a clear colorless liquid (1.75 g, 88%). MH+276.

reactant | 1-formyl-cyclohexanecarboxylic acid methyl ester | 7.23 mmol, 1.23 g | COC(=O)C1(CCCCC1)C=O | C9H14O3
reactant | sodium acetate | 14.5 mmol, 1.0 g | C(C)(=O)[O-].[Na+]
reactant | O-benzylhydroxylamine hydrochloride | 14.5 mmol, 2.3 g | Cl.C(C1=CC=CC=C1)ON
solvent | methanol | 40 mL | CO | CH4O
product | 1-(Benzyloxyimino-Methyl)-Cyclohexanecarboxylic Acid Methyl Ester | 1.75 g, 88% | COC(=O)C1(CCCCC1)C=NOCC1=CC=CC=C1 | C16H21NO3
